US07842707B2
DOWEX® 550A-OH hydroxide resin (Aldrich, 75 g) was suspended in methanol, filtered, rinsed with methanol, and partially air dried. A portion of 1,4-diamino-bicyclo[2.2.2]octane dihydrochloride (10 g, 46.8 mmol) was taken up in methanol (200 mL), then treated with the above hydroxyl resin and stirred for 30 min (making sure all white clumps were dissolved). The mixture was filtered, the resin rinsed with methanol, and the filtrate concentrated in vacuo to afford 6.46 g (98%) of 1,4-diaminobicyclo[2.2.2]octane free base as a white solid (caution: compound readily carbonates in air and must be stored under nitrogen).

reactant | 1,4-diamino-bicyclo[2.2.2]octane dihydrochloride | 46.8 mmol, 10 g | Cl.Cl.NC12CCC(CC1)(CC2)N
solvent | methanol | CO | CH4O
solvent | methanol | 200 mL | CO | CH4O
product | 1,4-diaminobicyclo[2.2.2]octane | 6.46 g, 98% | NC12CCC(CC1)(CC2)N | C8H16N2
